US07553854B2
Step 2. Synthesis of (1R,2R)-2-(7-bromo-6-methoxybenzo[d]thiazol-2ylamino)cyclohexanol
To the solution of 7-bromo-2-chloro-6-methoxybenzo[d]thiazole (150 mg, 0.539 mmol, 1.0 eq) in 1 mL of NMP was added (1R,2R)-2-aminocyclohexanol hydrochloride (0.123 mg, 0.809 mmol, 1.5 eq) and DIPEA (263 μL, 1.503 mmol, 2.8 eq) at room temperature. The reaction mixture was stirred at 125° C. for 12 hours, thereafter the mixture was diluted with saturated sodium bicarbonate solution (ca. 100 mL) and aqueous layer extracted with ethyl acetate (ca. 200 mL×3). Combined organic layers were dried over sodium sulfate, filtered and condensed under reduced pressure to give crude product as brown oil which was sufficiently pure and was carried to next step without further purification. LC/MS (m/z) [359.0] (MH+)

reactant | 7-bromo-2-chloro-6-methoxybenzo[d]thiazole | 0.539 mmol, 150 mg, 1.0 eq | BrC1=C(C=CC=2N=C(SC21)Cl)OC | C8H5BrClNOS
reactant | (1R,2R)-2-aminocyclohexanol hydrochloride | 0.809 mmol, 0.123 mg, 1.5 eq | Cl.N[C@H]1[C@@H](CCCC1)O
reactant | DIPEA | 1.503 mmol, 263 μL, 2.8 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | sodium bicarbonate | ca. 100 mL | C([O-])(O)=O.[Na+]
product | (1R,2R)-2-(7-bromo-6-methoxybenzo[d]thiazol-2ylamino)cyclohexanol | BrC1=C(C=CC=2N=C(SC21)N[C@H]2[C@@H](CCCC2)O)OC | C14H17BrN2O2S
